US04772601
5-Hydroxymethyl-1-(2-propynyl)-2-pyrrolidinone
To an ice-water chilled solution of 6.42 g of 5-methoxycarbonyl-1-(2-propynyl)-2-pyrrolidinone in absolute ethanol (60 ml), 1.55 g of powdered sodium borohydride was added. The mixture was stirred overnight at ambient temperature.

reactant | 5-methoxycarbonyl-1-(2-propynyl)-2-pyrrolidinone | 6.42 g | COC(=O)C1CCC(N1CC#C)=O | C9H11NO3
reactant | sodium borohydride | 1.55 g | [BH4-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-Hydroxymethyl-1-(2-propynyl)-2-pyrrolidinone | OCC1CCC(N1CC#C)=O | C8H11NO2
